US04642365
To the mixture of 230 mg of 7β-amino-3-hydroxymethyl-3-cephem-4-carboxylic acid, 174 mg of 5-mercapto-1-methyl-1H-tetrazole, 4 ml of formamide and 1 ml of acetonitrile was added 253 mg of triethylamine under stirring and cooling with ice bath. To the resulting solution were added a solution of 650 mg of methyl o-phenylene phosphate in 2 ml of methylene chloride and 5 ml of acetonitrile under stirring and cooling at -10° C. to 0° C., followed by stirring for 0.5 hour at 0° C. to 5° C. The resulting precipitate was collected by filtration, washed with 5 ml of acetonitrile and suspended in a mixed solution of 6 ml of water and 2 ml of acetonitrile. To this suspension was added about 0.1 ml of 35% hydrochloric acid to obtain a clear solution. After adjusting the pH of the solution to 4 by addition of 25% ammonia-water under cooling with ice bath, the resulting crystals were collected by filtration, washed with 2 ml of cold water and dried in vacuo to give 280 mg (yield 85.3%) of 7β-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid.

reactant | 7β-amino-3-hydroxymethyl-3-cephem-4-carboxylic acid | 230 mg | N[C@H]1[C@@H]2N(C(=C(CS2)CO)C(=O)O)C1=O | C8H10N2O4S
reactant | 5-mercapto-1-methyl-1H-tetrazole | 174 mg | SC1=NN=NN1C | C2H4N4S
reactant | formamide | 4 ml | C(=O)N | CH3NO
reactant | methyl o-phenylene phosphate | 650 mg | P1(=O)(OC)OC2=C(C=CC=C2)O1 | C7H7O4P
reactant | ammonia water | N.O
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
solvent | triethylamine | 253 mg | C(C)N(CC)CC | C6H15N
product | 7β-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 280 mg, yield 85.3% | N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O | C10H12N6O3S2
